US04997855
A stirred suspension of 2.1 grams (0.033 mole) of zinc dust in 100 ml of 1-methylethanol is heated to 100° C. and a solution of 10.0 grams (0.030 mole) of 1,2,4-trichloro-1,1,2-trifluorododecane in 50 ml of 1-methylethanol is added dropwise. Upon completion of addition, the reaction mixture is heated at 100° C. for 60 hours. The reaction mixture is cooled to ambient temperature and filtered. The filtrate is concentrated under reduced pressure to a residual oil. The oil is fractionally distilled under reduced pressure through a Vigreux column. The appropriate fractions are combined to yield 4.0 grams of 4-chloro-1,1,2-trifluoro-1-dodecene; b.p. 70°-73° C./0.5mm. The nmr spectrum is consistent with the proposed structure.

reactant | 1,2,4-trichloro-1,1,2-trifluorododecane | 0.030 mole, 10.0 grams | ClC(C(CC(CCCCCCCC)Cl)(F)Cl)(F)F | C12H20Cl3F3
solvent | 1-methylethanol | 100 ml | CC(C)O | C3H8O
solvent | 1-methylethanol | 50 ml | CC(C)O | C3H8O
catalyst | zinc | 0.033 mole, 2.1 grams | [Zn] | Zn
product | 4-chloro-1,1,2-trifluoro-1-dodecene | 4.0 grams | ClC(CC(=C(F)F)F)CCCCCCCC | C12H20ClF3
